datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:65]1=[CH:64][CH:63]=[N+:62]([BH2-:11][H:10])[CH:73]=[CH:74]1.[CH2:20]=[CH:21][C:22]#[N:23]>>CO[C:65]1=[CH:64][CH:63]=[N+:62]([BH2:11])[CH:73]=[CH:74]1.[H:10][CH2:20][CH:21]=[C:22]=[N-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CC[N:12]3C4=C(C=CC=C4)[S:62][C:11]3=[N:10]2)C=C1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4C=C[CH:20]([N:10]5[C@H](C(C6=CC=CC=C6)C6=CC=CC=C6)CC[N+:12]6=[C:11]5[S:62]C5=C6C=CC=C5)C1C2C43 10,11=10,20;12=11,12;20,21=21"
"C1CCC[C:20](=[O:21])CC1.C1C[O:62][C:11]([H:10])([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[O:12]1>>C1CCC[C:20]([H:10])([O-:21])CC1.C1C[O:62][C:11]([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)=[O+:12]1 10,11=10,20;12=11,12;20,21=21"
"CN(C)C1=CC=C(C[C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1.ClC[N+]12CC[N+:21]([F:20])(CC1)CC2>>CN(C)C1=CC=C(C[C:10]2([F:20])[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1.ClC[N+]12CC[N:21](CC1)CC2 10=20;20,21=21"
"CC1=CC=[C:10]([B-:11]2(C3=CC=CC=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20]([C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)S1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(/[C:10](=[C:11](\C2=CC=CC=C2)[O-:12])[C:61](C2=CC=CC=C2)=[O:62])C=C1.COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC>>COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([C:10](C2=CC=CC=C2)([C:11](C2=CC=CC=C2)=[O:12])[C:61](C2=CC=CC=C2)=[O:62])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CN(C)C1=CC=C([P:10](C2=CC=C(N(C)C)C=C2)C2=CC=C(N(C)C)C=C2)C=C1>>CC[O:34][C:32]([C:21]([CH:20]([P+:10](C1=CC=C(N(C)C)C=C1)(C1=CC=C(N(C)C)C=C1)C1=CC=C(N(C)C)C=C1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.COC[C@@H]1CCC[NH:10]1>>COC[C@@H]1CCC[NH+:10]1[CH:20]1[C:31]2=[C:32](C=CC=C2)[CH:33]=[CH:34][C:35]2=[C:36]1C=CC=C2 10=20
"C1[CH:20]=[CH:21][C:22](=[O:23])[O:33]1.C[N:10](C)C>>C[N+:10](C)(C)[CH:20]1C[O:33][C:22]([O-:23])=[CH:21]1 10=20;20,21=21,22;22,23=23"
"COC12C3C[CH:20]4C5C1[Fe-2:21]3524(C#[O+])(C#[O+])C#[O+].[O+]#C[Fe-3:63]123(C#[O+])(C#[O+])C4C[CH:10]=[CH:11][CH:62]1C2C43>>COC12C3C[CH:20]([CH:10]4CC5C6C7[CH:62]([CH+:11]4)[Fe-3:63]567(C#[O+])(C#[O+])C#[O+])C4C1[Fe-3:21]342(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21"
"CC(C)(C)[O:33][C:22]([CH:21]=[CH2:20])=[O:23].CC[N:72](CC)[C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62]>>CC[N:72](CC)[C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[CH2:20][CH:21]=[C:22]([O-:23])[O:33]C(C)(C)C)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1.[H:10][CH:11]([CH:12]=[CH2:13])[CH:62]=[CH2:63]>>Cl[B-:33](Cl)(Cl)[O:21][CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1.[CH:11](=[CH:12][CH2+:13])[CH:62]=[CH2:63] 10,11=10,20;12,13=11,12;20,21=21"
"C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC1(C)[O:64][C:13]([O-:14])=[C:12]([CH:11]([H:10])[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC1(C)[O:64][C:13](=[O:14])[C:12](=[CH:11][C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.[H:10][F:20] 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.[C:10](=[N+:11]=[N-:12])([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1>>C1CC[N:21]([CH:20]([C:10]([N+:11]#[N:12])([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1 10,11=10,20;12=11,12;20,21=21"
"C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si:11]([H:10])([CH3:62])[CH3:72])[CH:94]=[CH:93]1.[CH:20]1=[CH:21][C:22](=[O:23])[CH:30]=[CH:31][C:32]1=[O:33]>>C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si+:11]([CH3:62])[CH3:72])[CH:94]=[CH:93]1.[H:10][CH:20]1[CH:21]=[C:22]([O-:23])[CH:30]=[CH:31][C:32]1=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
